US08084604B2
2-Methoxy-5-trifluoromethylphenyl isocyanate (1057.8 g) is dissolved in acetonitrile (4240 ml), then 2-fluoroaniline (540.8 g) is added thereto and the mixture is rinsed in with acetonitrile (50 ml). The resulting clear solution is stirred under reflux (ca. 82° C.) for 4 h, then seeded at ca. 78° C. and stirred for ca. 15 min. The suspension is cooled to 0° C., and the product is filtered off with suction and washed with acetonitrile (950 ml, cooled to 0-5° C.). The product is dried overnight at 45° C. in a vacuum drying oven using entraining nitrogen. A total of 1380.8 g of N-(2-fluorophenyl)-N′-[2-methoxy-5-(trifluoromethyl)phenyl]urea are obtained as a solid, corresponding to 86.4% of theory.

reactant | 2-Methoxy-5-trifluoromethylphenyl isocyanate | 1057.8 g | COC1=C(C=C(C=C1)C(F)(F)F)N=C=O | C9H6F3NO2
reactant | 2-fluoroaniline | 540.8 g | FC1=C(N)C=CC=C1 | C6H6FN
solvent | acetonitrile | 4240 ml | C(C)#N | C2H3N
product | N-(2-fluorophenyl)-N′-[2-methoxy-5-(trifluoromethyl)phenyl]urea | 1380.8 g | FC1=C(C=CC=C1)NC(=O)NC1=C(C=CC(=C1)C(F)(F)F)OC | C15H12F4N2O2
